US07713994B2
1-(4-Bromo-benzyl)-2-ethoxymethyl-pyrrolidine
[1-(4-Bromo-benzyl)-pyrrolidin-2-yl]-methanol (269 mg, 1.0 mmol) and EtI (234 mg, 1.5 mmol) is mixed at 0° C. in DMF (DMF) (10 mL). To this mixture is then added NaH (60 mg, 60% suspension in mineral oil, 1.5 mmol). The resulting mixture is stirred at room temperature for 1 h before aqueous workup. The resulting residue is directly used in the next step.

reactant | [1-(4-Bromo-benzyl)-pyrrolidin-2-yl]-methanol | 1.0 mmol, 269 mg | BrC1=CC=C(CN2C(CCC2)CO)C=C1 | C12H16BrNO
reactant | EtI | 1.5 mmol, 234 mg | C(C)I | C2H5I
reactant | NaH | 1.5 mmol, 60 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(4-Bromo-benzyl)-2-ethoxymethyl-pyrrolidine | BrC1=CC=C(CN2C(CCC2)COCC)C=C1 | C14H20BrNO
